US05283361
C. 1-tetrahydropyranyloxy-1-[2-(4-fluorophenylthio)phenyl]prop-2-ene
To 1-tetrahydropyranyloxy-1-(2-bromophenyl)prop-2-ene (5.39 g; 18.1 mmol) in 60 ml of dry THF cooled to -78° C. was added n-butylithium (12.5 ml of 1.6M solution in hexane) and the reaction mixture stirred for five minutes. To the reaction mixture was added 4-fluorophenyldisulfide (5.54 g; 18 mmol) in 15 ml of dry THF. The cooling bath was removed and the reaction mixture allowed to warm to room temperature. The mixture was quenched with saturated NH4Cl, and extracted twice with diethyl ether. The organics were washed twice with water and then with brine, dried over MgSO4, and concentrated. HPLC of the crude subtitle compound using hexane and then 20:1 hexane/diethyl ether afforded the subtitle compound.

reactant | 1-tetrahydropyranyloxy-1-(2-bromophenyl)prop-2-ene | 18.1 mmol, 5.39 g | O1C(CCCC1)OC(C=C)C1=C(C=CC=C1)Br | C14H17BrO2
reactant | 4-fluorophenyldisulfide | 18 mmol, 5.54 g | FC1=CC=C(C=C1)SSC1=CC=C(C=C1)F | C12H8F2S2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-tetrahydropyranyloxy-1-[2-(4-fluorophenylthio)phenyl]prop-2-ene | O1C(CCCC1)OC(C=C)C1=C(C=CC=C1)SC1=CC=C(C=C1)F | C20H21FO2S
